US06306880B1
2-(p-Toluenesulfonyloxy)-1,3-propanediol
In 50 ml of methanol were dissolved 5.00 g of cis-2-phenyl-4-(p-toluenesulfonyloxy)-1,3-dioxane, and 5 ml of a 4N HC1-dioxane solution were added to the solution, followed by stirring of the resulting mixture at room temperature for 2 hours. To the reaction mixture were added 3.5 g of NaHCO3 powder, and the mixture was stirred for 10 minutes. Then, the reaction mixture was filtered and the filtrate was concentrated under reduced pressure. The thus obtained oil was subjected to column chromatography using silica gel and eluted with ethyl acetate to obtain 3.70 g (yield: 100%) of the title compound as an oil.

reactant | cis-2-phenyl-4-(p-toluenesulfonyloxy)-1,3-dioxane | 5.00 g | C1(=CC=CC=C1)[C@@H]1OCC[C@@H](O1)OS(=O)(=O)C1=CC=C(C=C1)C | C17H18O5S
reactant | NaHCO3 | 3.5 g | C(=O)(O)[O-].[Na+]
reactant | methanol | 50 ml | CO | CH4O
product | 2-(p-Toluenesulfonyloxy)-1,3-propanediol | 3.70 g, yield: 100% | C1(=CC=C(C=C1)S(=O)(=O)OC(CO)CO)C | C10H14O5S
